US06479480B1
7-Chloro- 3-(1,4-dimethylpiperazin-2(S)-ylmethyl)-2-phenyl-1H-indole dihydrochloride
By substantially following the procedures of Example 1, utilising di-N-benzyloxycarbonylpiperazine-2(R)-carboxylic acid in place of N-benzyloxycarbonylnipecotic acid and 7-chloro-2-phenylindole in place of 2-phenylindole, was prepared the title compound as a white solid. (Found: C, 57.69; H, 6.11; N, 9.56; C21H24Cl3N2.0.6H2O requires C, 57.64; H, 6.27; N, 9.60%); mp 260° C. (from EtOH); [α]D22+25.2 (c 1.0 in MeOH); δH (400 MHz; D2O) 2.38 (4H, m, CH3 and aliphatic), 2.58 (3H, s, CH3), 2.70-2.88 (5H, m, aliphatics), 3.16-3.21 (2H, m, aliphatics), 3.50 (1H, m, aliphatic), 7.19 (1H, t, J 7.9 and 7.8, indole H5), 7.32 (1H, dd, J 7.6 and 0.6, indole H6), 7.51-7.55 (1H, m, aromatic), 7.57-7.63 (8H, m, aromatics); m/z (ES30) 353 (M++H, 100%).

reactant | di-N-benzyloxycarbonylpiperazine-2(R)-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N1[C@H](CN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)O | C21H22N2O6
reactant | 7-chloro-2-phenylindole | ClC=1C=CC=C2C=C(NC12)C1=CC=CC=C1 | C14H10ClN
product | 7-Chloro- 3-(1,4-dimethylpiperazin-2(S)-ylmethyl)-2-phenyl-1H-indole dihydrochloride | Cl.Cl.ClC=1C=CC=C2C(=C(NC12)C1=CC=CC=C1)C[C@@H]1N(CCN(C1)C)C | InChI=1S/C21H24ClN3.2ClH/c1-24-11-12-25(2)16(14-24)13-18-17-9-6-10-19(22)21(17)23-20(18)15-7-4-3-5-8-15;;/h3-10,16,23H,11-14H2,1-2H3;2*1H/t16-;;/m0../s1
